US07700594B2
7-Methyl-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzofuran
Prepared according to a procedure analogous to that described for 7-chloro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole using 7-methyl-benzofuran.

reactant | 7-chloro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole | ClC=1C=CC=C2C=C(NC12)B1OC(C(O1)(C)C)(C)C | C14H17BClNO2
reactant | 7-methyl-benzofuran | CC1=CC=CC=2C=COC21 | C9H8O
product | 7-Methyl-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzofuran | CC1=CC=CC=2C=C(OC21)B2OC(C(O2)(C)C)(C)C | C15H19BO3
